US06002008
4-(2-Chloro-4-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 15 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 270.1 mg (1.5 mmol) of 4-amino-3-chlorophenol to give 299.2 mg (84.3%) of the product as a light brown solid, m.p.>250° C., mass (electrospray, m/e): M+H 355.8, 357.8.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 4-amino-3-chlorophenol | 1.5 mmol, 270.1 mg | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(2-Chloro-4-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 299.2 mg, 84.3% | ClC1=C(C=CC(=C1)O)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H14ClN3O3
